### PR TITLE
feat: Equivs for AddMonoidAlgebras

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

Extracted from #6718.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MonoidAlgebra/Equiv.lean [hunk 1]
```diff
@@ -0,0 +1,155 @@
...
+-/
+
+noncomputable section
+
+namespace AddMonoidAlgebra
+
+@[simps]
+def ringHomCongrLeft {R S G : Type _} [Semiring R] [Semiring S] [AddZeroClass G] (f : R →+* S) :
+    AddMonoidAlgebra R G →+* AddMonoidAlgebra S G :=
+  { Finsupp.mapRange.addMonoidHom f.toAddMonoidHom with
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/Equiv.lean:21]: If you use one of the `lift` functions can you avoi needing to prove the `map_mul'`?

File: Mathlib/Algebra/MonoidAlgebra/Equiv.lean [hunk 2]
```diff
@@ -0,0 +1,155 @@
...
+    refine Finsupp.ext fun a => ?_
+    rfl
+#align add_monoid_algebra.map_domain_alg_aut AddMonoidAlgebra.mapDomainAlgAut
+
+@[simp 1001] -- LHS simplifies
+lemma mapDomainAlgAut_apply_one {k A : Type _} [CommSemiring k] [Semiring A] [Algebra k A]
+    {G : Type _} [AddMonoid G] :
+    mapDomainAlgAut k A (G := G) 1 = AlgEquiv.refl := by
+  ext
+  exact Finsupp.equivMapDomain_refl _
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/Equiv.lean:153]: Isn't this just `map_one`? (aka not a useful lemma)

File: Mathlib/Algebra/MonoidAlgebra/Equiv.lean [hunk 3]
```diff
@@ -0,0 +1,155 @@
...
+def algHomCongrLeft {k R S G : Type _} [CommSemiring k] [Semiring R] [Algebra k R] [Semiring S]
+    [Algebra k S] [AddMonoid G] (f : R →ₐ[k] S) : AddMonoidAlgebra R G →ₐ[k] AddMonoidAlgebra S G :=
+  { ringHomCongrLeft f.toRingHom with
+    toFun := (Finsupp.mapRange f f.map_zero : AddMonoidAlgebra R G → AddMonoidAlgebra S G)
+    commutes' := fun r => by
+      -- Porting note: was `ext`
+      refine Finsupp.ext fun a => ?_
+      simp_rw [AddMonoidAlgebra.coe_algebraMap, Function.comp_apply, Finsupp.mapRange_single]
+      congr 2
+      rw [AlgHom.map_algebraMap] }
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/Equiv.lean:62]: I think you can get here more quickly via `AlgHom.ofLinearMap` (or similar) and using the linear version of `Finsupp.mapRange`

**Comment by Ruben-VandeVelde** [comment]
@eric-wieser I didn't see how to apply your suggestions immediately; if you have a moment to share some more details, that would be appreciated, but if not, I'm happy to poke some more.

File: Mathlib/Algebra/MonoidAlgebra/Equiv.lean [hunk 4]
```diff
@@ -0,0 +1,143 @@
...
+    (R ≃ₐ[k] R) →* AddMonoidAlgebra R G ≃ₐ[k] AddMonoidAlgebra R G where
+  toFun f := algEquivCongrLeft f
+  map_one' := by
+    ext
+    refine Finsupp.ext fun a => ?_
+    simp [Finsupp.mapRange_apply]
+  map_mul' x y := by
+    ext
+    refine Finsupp.ext fun a => ?_
+    simp [Finsupp.mapRange_apply]
```
Comment (alreadydone) [inline Mathlib/Algebra/MonoidAlgebra/Equiv.lean:82]: The content of this and `mapDomainAlgAut` below is basically the `comp`/`trans` and `id`/`refl` lemmas I mentioned [here](https://github.com/leanprover-community/mathlib4/pull/6718#discussion_r1328008953), so one more reason to add them. Maybe we could do with these lemmas without making them bundled morphisms?

File: Mathlib/Algebra/MonoidAlgebra/Equiv.lean [hunk 5]
```diff
@@ -0,0 +1,143 @@
...
+@[simp 1001] -- LHS simplifies
+lemma algAutCongrLeft_apply_one {k R G : Type _} [CommSemiring k] [Semiring R] [Algebra k R]
+    [AddMonoid G] :
+    algAutCongrLeft (k := k) (R := R) (G := G) 1 = AlgEquiv.refl := by
+  ext
+  exact Finsupp.mapRange_id _
+
+@[simps]
+def mapDomainRingEquiv (k : Type _) [Semiring k] {G H : Type _} [AddMonoid G] [AddMonoid H]
+    (f : G ≃+ H) : AddMonoidAlgebra k G ≃+* AddMonoidAlgebra k H :=
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Algebra/MonoidAlgebra/Equiv.lean:93]: This falls out trivially from `domCongr` with `k=Nat`, though perhaps that's not a satisfying way to get it.

File: Mathlib/Algebra/MonoidAlgebra/Equiv.lean [hunk 6]
```diff
@@ -0,0 +1,143 @@
...
+        rw [mul_add, map_add, hf, hg, mul_add]
+      | hsingle =>
+        -- Porting note: was `ext`
+        refine Finsupp.ext fun a => ?_
+        simp only [Finsupp.domCongr_apply, single_mul_single, Finsupp.equivMapDomain_single,
+          AddEquiv.coe_toEquiv, map_add] }
+
+@[simps]
+def mapDomainAlgEquiv (k A : Type _) [CommSemiring k] [Semiring A] [Algebra k A] {G H : Type _}
+    [AddMonoid G] [AddMonoid H] (f : G ≃+ H) : AddMonoidAlgebra A G ≃ₐ[k] AddMonoidAlgebra A H :=
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Algebra/MonoidAlgebra/Equiv.lean:121]: (added in #6567)

File: Mathlib/Algebra/MonoidAlgebra/Equiv.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Algebra/MonoidAlgebra/Equiv.lean:82]: @negiizhao, is this the only result you actually need in #6718? If so, I'd be inclined not to both with all the `Ring` versions of things, since you wanted the algebra version anyway.

File: Mathlib/Algebra/MonoidAlgebra/Equiv.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/Algebra/MonoidAlgebra/Equiv.lean:93]: Indeed! I've forgotten we can take `k := Nat` rather than `k`, even though I've [used this trick before](https://github.com/leanprover-community/mathlib/pull/17401/files#diff-a97e4b387e41d31d3f5467f44ef6cf00d77f7278449af9d55821b61a2f4affc0L1345-R1340) to generalize to the noncommutative setting. Now I'm confused: what's not satisfying about it?

[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Algebra/MonoidAlgebra/Equiv.lean:93]: Usually we build stronger bundlings from weaker bundlings (as in general this scales), rather than building the strongest one first and recovering the weaker one as a special case.

I suspect though that no one needs the weaker one in the first place...

**Comment by YaelDillies** [comment]
Duplicate of #32254. Let's close?
